US07163947B2
A solution of N1-isopropyl-2-propyl-1H-imidazo[4,5-c]quinoline-1,4-diamine (0.59 g, 2.1 mmol) in 15 mL of trifluoroacetic acid was treated with platinum(IV) oxide (0.55 g, 2.4 mmol) and shaken under an atmosphere of hydrogen (3.8×105 Pa). After 6 days, the reaction mixture was filtered through a pad of CELITE filter agent and rinsed with a mixture of 85:15:0.1 CHCl3:MeOH:TFA until the filtrate ran clear. The filtrate was concentrated under reduced pressure to yield a white foam. The material was suspended in water and treated with 50% NaOH solution until the pH reached 13. A white solid precipitated and was triturated in the basic mixture for 1 h. The white solid was collected by vacuum filtration. The solid was purified by chromatography (SiO2, 95:5:0.1 CHCl3:MeOH:NH4OH) to yield 0.23 g of N1-isopropyl-2-propyl-6,7,8,9-tetrahydro-1H-imidazo[4,5-c]quinoline-1,4-diamine as a white solid.

reactant | N1-isopropyl-2-propyl-1H-imidazo[4,5-c]quinoline-1,4-diamine | 2.1 mmol, 0.59 g | C(C)(C)NN1C(=NC=2C(=NC=3C=CC=CC3C21)N)CCC | C16H21N5
reactant | NaOH | [OH-].[Na+]
solvent | trifluoroacetic acid | 15 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | water | O | H2O
catalyst | platinum(IV) oxide | 2.4 mmol, 0.55 g | [Pt](=O)=O
product | N1-isopropyl-2-propyl-6,7,8,9-tetrahydro-1H-imidazo[4,5-c]quinoline-1,4-diamine | 0.23 g | C(C)(C)NN1C(=NC=2C(=NC=3CCCCC3C21)N)CCC | C16H25N5
